US03974166
117.5 g (0.6 mol) of 2,6-dichloro-3-chloromethylpyridine are dissoled in a mixture of 540 ml of concentrated sulphuric acid and 600 ml of 100% strength fuming nitric acid. The reaction mixture is then heated at 110°C in an oil bath for 5 hours. After cooling to approx. 20°C, the reaction mixture is poured onto ice. The resulting crystals are filtered off and are purified by being well ground with water in a mortar and then filtered off with suction and rinsed with water on the filter. After drying the crude product in vacuo at 25°C over diphosphorus pentoxide. crude 2,6-dichloro-3-chloromethyl-5-nitropyridine is obtained in the form of pale yellow crystals, which can be recrystallised from methanol.

reactant | 2,6-dichloro-3-chloromethylpyridine | 0.6 mol, 117.5 g | ClC1=NC(=CC=C1CCl)Cl | C6H4Cl3N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 540 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dichloro-3-chloromethyl-5-nitropyridine | ClC1=NC(=C(C=C1CCl)[N+](=O)[O-])Cl | C6H3Cl3N2O2
